US09062028B2
Step F. tert-Butyl 3-((3-bromobenzyloxy)carbonylamino)propanoate
To a solution of 3-bromobenzyl 4-nitrophenyl carbonate (8 g, 21.58 mmol) in DCM (50 mL) was added N-ethyl-N-isopropylpropan-2-amine (7.47 mL, 43.2 mmol) and tert-butyl 3-aminopropanoate hydrochloride (3.92 g, 21.58 mmol). Upon the completion of addition, the reaction mixture was stirred at room temperature for 1 h and then quenched with water. The resulting mixture was extracted with CH2Cl2 and the combined organic layer was dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-50% ethyl acetate:hexanes) to afford the title compound (7.10 g, 89% yield) as a light brown oil. LCMS, [M-tBu+2H]+=302.1. 1H NMR (400 MHz, CDCl3) δ 7.50 (s, 1H), 7.44 (d, J=7.7 Hz, 1H), 7.29-7.19 (m, 2H), 5.31 (br. s, 1H), 5.06 (s, 2H), 3.43 (dd, J=12.1, 6.1 Hz, 2H), 2.46 (t, J=6.0 Hz, 2H), 1.45 (s, 9H).

reactant | 3-bromobenzyl 4-nitrophenyl carbonate | 21.58 mmol, 8 g | C(OCC1=CC(=CC=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10BrNO5
reactant | N-ethyl-N-isopropylpropan-2-amine | 43.2 mmol, 7.47 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 3-aminopropanoate hydrochloride | 21.58 mmol, 3.92 g | Cl.NCCC(=O)OC(C)(C)C
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-((3-bromobenzyloxy)carbonylamino)propanoate | 7.10 g, 89% yield | BrC=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1 | C15H20BrNO4
